US06573274B1
To a solution of 3-chloro-4-methylaniline (7.08 g) in methanol (35 ml) were added cyclohexanecarbaldehyde (5.33 g) and sodium cyanoborohydride (3.78 g) under ice-cooling and the mixture was stirred at room temperature. After one hour, the reaction mixture was concentrated and water and saturated brine were added. The mixture was extracted 3 times with ethyl acetate. The organic layers were combined, washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated and the residue was purified by column chromatography (silica gel, hexane/ethyl acetate=15/1) to give 3-chloro-N-cyclohexylmethyl-4-methylaniline as a pale-yellow oil (9.64 g).

reactant | 3-chloro-4-methylaniline | 7.08 g | ClC=1C=C(N)C=CC1C | C7H8ClN
reactant | cyclohexanecarbaldehyde | 5.33 g | C1(CCCCC1)C=O | C7H12O
reactant | sodium cyanoborohydride | 3.78 g | C(#N)[BH3-].[Na+]
solvent | methanol | 35 ml | CO | CH4O
product | 3-chloro-N-cyclohexylmethyl-4-methylaniline | 9.64 g | ClC=1C=C(NCC2CCCCC2)C=CC1C | C14H20ClN
